US05387617
To a solution of 0.52g of 4,4-diphenylbut-1-ene in 25 mL of dichloromethane at 0° C. was added 0.75 g of 50-60% by wt of m-chloroperbenzoic acid. The mixture was stirred at room temperature overnight, then heated at reflux for 1 hr. Water, 1 mL, and 0.25 g of sodium hydrogen sulfite were added to destroy the excess oxidizing agent. The organic layer was washed with water and dilute sodium hydrogen carbonate solution, dried, then concentrated in vacuo to give 0.5 g of 4,4-diphenylbut-1-ene oxide which is characterized by:

reactant | 4,4-diphenylbut-1-ene | 0.52g | C1(=CC=CC=C1)C(CC=C)C1=CC=CC=C1 | C16H16
reactant | m-chloroperbenzoic acid | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
reactant | Water | O | H2O
reactant | sodium hydrogen sulfite | 0.25 g | S(=O)(O)[O-].[Na+]
solvent | dichloromethane | 25 mL | ClCCl | CH2Cl2
product | 4,4-diphenylbut-1-ene oxide | 0.5 g | C1(=CC=CC=C1)C(CC1CO1)C1=CC=CC=C1 | C16H16O
